US04342692
2-(3',4'-Dihydroxybenzyl)-5-(2-phenylethyl) pyrrolidine hydrobromide
To a cold (-70° C.) solution of 15.1 g (0.057 mole) of 2-(3'4'-dimethoxybenzyl)-5-(2-phenylethyl)pyrrolidine in 1 L of methylene chloride was added dropwise 55.1 g (0.22 mole) of boron tribromide. After the addition the reaction mixture was gradually warmed up to room temperature over a period of 2 h. The mixture was cooled again to -70° C. and 300 ml. of methanol was carefully added. Solvent was removed in vacuo. An additional 100 ml of methanol was added and removed in vacuo. The gummy dark residue was boiled in ethyl acetate and decanted, then triturated with ethyl acetate and left overnight to give a solid. This was recrystallized twice from acetonitrile to give 6 g. m.p. 149°-151° C.

reactant | 2-(3'4'-dimethoxybenzyl)-5-(2-phenylethyl)pyrrolidine | 0.057 mole, 15.1 g | COC=1C=C(CC2NC(CC2)CCC2=CC=CC=C2)C=CC1OC | C21H27NO2
reactant | boron tribromide | 0.22 mole, 55.1 g | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 2-(3',4'-Dihydroxybenzyl)-5-(2-phenylethyl) pyrrolidine hydrobromide | Br.OC=1C=C(CC2NC(CC2)CCC2=CC=CC=C2)C=CC1O | InChI=1S/C19H23NO2.BrH/c21-18-11-7-15(13-19(18)22)12-17-10-9-16(20-17)8-6-14-4-2-1-3-5-14;/h1-5,7,11,13,16-17,20-22H,6,8-10,12H2;1H
